US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-[4-(2-nitrophenoxy)phenyl]-1,3-dihydroimidazol-2-one
2-Nitrofluorobenzene (0.14 g) was added to a mixture of 1-[4-(2-dimethylaminoethoxy)phenyl]-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one (0.34 g), Aliquat® 336 (0.04 g, tricaprylylmethylammonium chloride), potassium hydroxide (0.077 g) and toluene (10 mL). The mixture was heated under reflux for 3 hours. After cooling, the reaction solution was washed with water, dried and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 460.49 (C25H24N4O5); MS (ESI): 461 ([M+H]+), was obtained as hydrotrifluoroacetate in this way.

reactant | 2-Nitrofluorobenzene | 0.14 g | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
reactant | 1-[4-(2-dimethylaminoethoxy)phenyl]-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one | 0.34 g | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)O)=O)C | C19H21N3O3
reactant | potassium hydroxide | 0.077 g | [OH-].[K+]
catalyst | Aliquat® 336 | 0.04 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-[4-(2-nitrophenoxy)phenyl]-1,3-dihydroimidazol-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])=O)C | C25H24N4O5
